US06340759B1
(259-3) 1-[(1,3-Dioxolan-2-yl)methyloxy]-4-ethynylbenzene
1-[(1,3-Dioxolan-2-yl)methyloxy]-4-iodobenzene (36.3 g) and trimethylsilylacetylene (50.0 g) were reacted in the presence of bistriphenylphosphinepalladium dichloride (2.50 g) and cuprous iodide (1.25 g), in triethylamine (140 ml) and pyridine (70 ml) at 60° C. for 2 hr. The reaction solution was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried and concentrated. The resulting residue was dissolved in methanol and treated with 2N sodium hydroxide, to give 20.1 g of the title compound.

reactant | 1-[(1,3-Dioxolan-2-yl)methyloxy]-4-iodobenzene | 36.3 g | O1C(OCC1)COC1=CC=C(C=C1)I | C10H11IO3
reactant | trimethylsilylacetylene | 50.0 g | C[Si](C)(C)C#C | C5H10Si
reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 140 ml | C(C)N(CC)CC | C6H15N
product | 1-[(1,3-Dioxolan-2-yl)methyloxy]-4-ethynylbenzene | 20.1 g | O1C(OCC1)COC1=CC=C(C=C1)C#C | C12H12O3
